US06841671B2
A mixture of 1-[6-(4-Formyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester (0.1 g, 0.24 mmol), tert-butoxycarbonylamide (0.083 g, 0.71 mmol), triethylsilane (0.11 mL, 0.083 g, 0.71 mmol) and acetonitrile (1 mL) was treated with trifluoroacetic acid (0.035 mL, 0.46 mmol) and stirred for 48 at ambient temperature. The mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate solution, brine, dried over sodium sulphate, filtered and concentrated in vacuo, affording 1-{6-[4-(tert-Butoxycarbonylamino-methyl)-phenoxy]-pyridin-3-yl}-pyrrolidine-2,2-dicarboxylic acid diethyl ester as a colorless syrup.

reactant | 1-[6-(4-Formyl-phenoxy)-pyridin-3-yl]-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.24 mmol, 0.1 g | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC1=CC=C(C=C1)C=O)C(=O)OCC | C22H24N2O6
reactant | tert-butoxycarbonylamide | 0.71 mmol, 0.083 g | C(C)(C)(C)OC(=O)[NH-]
reactant | triethylsilane | 0.71 mmol, 0.11 mL, 0.083 g | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 0.46 mmol, 0.035 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 1-{6-[4-(tert-Butoxycarbonylamino-methyl)-phenoxy]-pyridin-3-yl}-pyrrolidine-2,2-dicarboxylic acid diethyl ester | C(C)OC(=O)C1(N(CCC1)C=1C=NC(=CC1)OC1=CC=C(C=C1)CNC(=O)OC(C)(C)C)C(=O)OCC | C27H35N3O7
